US07834013B2
Racemic-(trans)-2-{4-[(4-biphenylylmethyl)amino]phenyl}cyclopropanecarboxylic Acid (I-2b)
A suspension of racemic-(trans)-2-(4-aminophenyl)cyclopropanecarboxylic acid (I-1) (0.28 g, 1.58 mmol) and 4-biphenylcarbaldehyde (0.32 g, 1.74 mmol) in dichloroethane (20 mL) were heated to reflux until a clear solution formed. The solution was cooled to RT then NaB(OAc)3H (0.50 g, 2.37 mmol) was added and stirred for 2 h. Water (50 mL) and dichloromethane (50 mL) were added and the organic layer was separated, dried over Na2SO4, filtered and concentrated. The crude material was purified on silica gel eluting with an increasing gradient from hexanes to 40% ethyl acetate/hexanes to give the title compound as a white solid (0.33 g, 61%). 1H NMR (400 MHz, DMSO) δ 12.15 (s, 1H), 7.65-7.59 (m, 4H), 7.46-7.41 (m, 4H), 7.34 (t, J=7.3 Hz, 1H), 6.84 (d, J=8.6 Hz, 2H), 6.51 (d, J=8.4 Hz, 2H), 6.22 (s, 1H), 4.29 (s, 2H), 2.23-2.18 (m, 1H), 1.62-1.57 (m, 1H), 1.32-1.28 (m, 1H), 1.21-1.16 (m, 1H). ES-MS m/z 344.2 (MH+).

reactant | racemic-(trans)-2-(4-aminophenyl)cyclopropanecarboxylic acid | 1.58 mmol, 0.28 g | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H11NO2
reactant | 4-biphenylcarbaldehyde | 1.74 mmol, 0.32 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | NaB(OAc)3H | 2.37 mmol, 0.50 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Water | 50 mL | O | H2O
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Racemic-(trans)-2-{4-[(4-biphenylylmethyl)amino]phenyl}cyclopropanecarboxylic Acid | 0.33 g, 61% | C1(=CC=C(C=C1)CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=CC=C1 | C23H21NO2
